US07371765B2
A suspension of 4-chloro-6-cyano-7-(3-(1,1-dioxothiomorpholino)propoxy)quinoline (100 mg, 0.26 mmol), (prepared as described for the starting material in Example 1), 5-hydroxyindole (42 mg, 0.32 mmol) and cesium carbonate (129 mg, 0.39 mmol) in DMF (1 ml) was stirred for 10 minutes at ambient temperature followed by 1.5 hours at 70° C. After cooling, water (5 ml) was added. The precipitate was filtered, washed with water and dried under vacuum. The solid was purified by column chromatography, eluting with methanol/methylene chloride/ethyl acetate (5/45/50) to give 6-cyano-7-(3-(1,1-dioxothiomorpholino)propoxy)-4-(indol-5-yloxy)quinoline (28 mg, 22%).

reactant | 4-chloro-6-cyano-7-(3-(1,1-dioxothiomorpholino)propoxy)quinoline | 0.26 mmol, 100 mg | ClC1=CC=NC2=CC(=C(C=C12)C#N)OCCCN1CCS(CC1)(=O)=O | C17H18ClN3O3S
reactant | 5-hydroxyindole | 0.32 mmol, 42 mg | OC=1C=C2C=CNC2=CC1 | C8H7NO
reactant | cesium carbonate | 0.39 mmol, 129 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | water | 5 ml | O | H2O
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
product | 6-cyano-7-(3-(1,1-dioxothiomorpholino)propoxy)-4-(indol-5-yloxy)quinoline | 28 mg, 22% | C(#N)C=1C=C2C(=CC=NC2=CC1OCCCN1CCS(CC1)(=O)=O)OC=1C=C2C=CNC2=CC1 | C25H24N4O4S
